US07132215B2
In 80 ml of toluene were dissolved 18.2 g of 1-(7-oxanorbornan-2-yl)cyclopentanol, 15.2 g of triethylamine, and 0.5 g of 4-(N,N-dimethylamino)pyridine. Then 12.5 g of acrylic chloride was added to the solution at 50° C., which was stirred at the temperature for one hour. Water, 50 ml, was added to the solution below 30° C., followed by ordinary post-treatment. Vacuum distillation yielded 19.7 g of 1-(7-oxanorbornan-2-yl)cyclopentyl acrylate. The two-step yield was 84%.

reactant | 1-(7-oxanorbornan-2-yl)cyclopentanol | 18.2 g | C12C(CC(CC1)O2)C2(CCCC2)O | C11H18O2
reactant | triethylamine | 15.2 g | C(C)N(CC)CC | C6H15N
reactant | acrylic chloride | 12.5 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(N,N-dimethylamino)pyridine | 0.5 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 1-(7-oxanorbornan-2-yl)cyclopentyl acrylate | 19.7 g, yield was 84% | C(C=C)(=O)OC1(CCCC1)C1C2CCC(C1)O2 | C14H20O3
